US04841047
4-(3,4-Dichlorobenzyl)-2-(hexahydro-1-benzyl-azepin-4-yl)-1(2H)-phthalazinone
A solution of 3.28 grams (8.15 mmoles) of 4-(3,4-dichlorobenzyl)-2-(hexahydro-1H-azepin-4-yl)-1-(2H)-phthalazinone, 3.4 ml (29.5 mmol) of benzyl chloride and 9 ml (64.6 mmol) of triethylamine in 20 ml of dioxane were heated for 12 hours at 200° C.

reactant | 4-(3,4-dichlorobenzyl)-2-(hexahydro-1H-azepin-4-yl)-1-(2H)-phthalazinone | 8.15 mmoles, 3.28 grams | ClC=1C=C(CC2=NN(C(C3=CC=CC=C23)=O)C2CCNCCC2)C=CC1Cl | C21H21Cl2N3O
reactant | benzyl chloride | 29.5 mmol, 3.4 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | triethylamine | 64.6 mmol, 9 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 4-(3,4-Dichlorobenzyl)-2-(hexahydro-1-benzyl-azepin-4-yl)-1(2H)-phthalazinone | ClC=1C=C(CC2=NN(C(C3=CC=CC=C23)=O)C2CCN(CCC2)CC2=CC=CC=C2)C=CC1Cl | C28H27Cl2N3O
